US07615549B2
(b) 3-(2-methyl-4-nitro-phenyl)-[1,3]oxazepan-2-one
20.2 g (63.4 mmol) 4-chlorobutyl (2-methyl-4-nitro-phenyl)-carbamate are dissolved in 500 ml DMF and added to a suspension of 7.8 g (69.8 mmol) potassium-tert.-butoxide in 500 ml DMF. The reaction solution is stirred for four hours at 90° C.; then the solvent is eliminated in vacuo using the rotary evaporator. The residue is combined with water and extracted three times with ethyl acetate. The combined organic phases are extracted twice with sat. ammonium chloride solution, then dried over sodium sulphate and filtered. The filtrate is evaporated to dryness i. vac. The residue is purified by reversed phase HPLC.

reactant | 4-chlorobutyl (2-methyl-4-nitro-phenyl)-carbamate | 63.4 mmol, 20.2 g | CC1=C(C=CC(=C1)[N+](=O)[O-])NC(OCCCCCl)=O | C12H15ClN2O4
reactant | potassium tert.-butoxide | 69.8 mmol, 7.8 g | [K].CC(C)([O-])C
solvent | DMF | 500 ml | CN(C)C=O | C3H7NO
solvent | DMF | 500 ml | CN(C)C=O | C3H7NO
product | 3-(2-methyl-4-nitro-phenyl)-[1,3]oxazepan-2-one | CC1=C(C=CC(=C1)[N+](=O)[O-])N1C(OCCCC1)=O | C12H14N2O4
